US07608639B2
3-[4-(3-Bromo-2-methyl-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester
A mixture of 3-(4-hydroxy-2-methyl-phenyl)-propionic acid methyl ester (2.0 g, 10.3 mmol), 2,6-dibromotoluene (7.72 g, 30.9 mmol), cesium carbonate (4.03 g, 12.4 mmol), and 2,2,6,6-tetramethyl-3,5-heptanedione (0.47 g, 2.55 mmol) in 1-methyl-2-pyrrolidinone (20 mL) is purged with N2, and then copper (I) chloride (0.51 g, 5.15 mmol) is added. The reaction is heated to 120° C. for 17 hours under N2, and then cooled and quenched with 1 N HCl (50 mL). The mixture is diluted with water and extracted with Et2O. The organic layer is dried (Na2SO4), and the solvent is removed in vacuo to afford crude product that is absorbed on silica gel and purified by flash chromatography using 9/1 hexanes/ethyl acetate to afford 2.92 g (78%) of the title compound. Rf=0.35 (4/1 hexanes/EtOAc). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C18H19O3Br 362, found 363 and 365 (M+1 and M+3, 100%).

reactant | 3-(4-hydroxy-2-methyl-phenyl)-propionic acid methyl ester | 10.3 mmol, 2.0 g | COC(CCC1=C(C=C(C=C1)O)C)=O | C11H14O3
reactant | 2,6-dibromotoluene | 30.9 mmol, 7.72 g | BrC1=C(C(=CC=C1)Br)C | C7H6Br2
reactant | cesium carbonate | 12.4 mmol, 4.03 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | 2.55 mmol, 0.47 g | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
solvent | 1-methyl-2-pyrrolidinone | 20 mL | CN1C(CCC1)=O | C5H9NO
catalyst | copper (I) chloride | 5.15 mmol, 0.51 g | [Cu]Cl
product | 3-[4-(3-Bromo-2-methyl-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | 2.92 g, 78% | COC(CCC1=C(C=C(C=C1)OC1=C(C(=CC=C1)Br)C)C)=O | C18H19BrO3
